US08975265B2
A mixture of (E)-3-{2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yl}-acrylic acid methyl ester (450 mg, 0.86 mmol) and 10% palladium on carbon (0.2 g) in MeOH (20 mL) was stirred under a hydrogen atmosphere for 2 h, and the resulting mixture was filtered. The resulting solution was concentrated under reduced pressure. The remaining material was purified using MPLC (Biotage Isolera; 25 g SNAP cartridge: gradient from 100% hexane to 80% hexane/20% EtOAc over 1.0 min., 80% hexane/20% EtOAc for 3 min., gradient to 50% hexane/50% EtOAc over 3.5 min., 50% hexane/50% EtOAc for 14.6 min,) to give 3-{2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yl}-propionic acid methyl ester (208 mg, 46%):

reactant | (E)-3-{2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yl}-acrylic acid methyl ester | 0.86 mmol, 450 mg | COC(\C=C\C1=CC=2N(C=C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)NC(=O)OC(C)(C)C)C2=CC=CC=C2)=O | C32H33N3O4
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | MeOH | 20 mL | CO | CH4O
product | 3-{2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yl}-propionic acid methyl ester | 208 mg, 46% | COC(CCC1=CC=2N(C=C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)NC(=O)OC(C)(C)C)C2=CC=CC=C2)=O | C32H35N3O4
